US08426447B2
A mixture of 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (276 mg, 1.315 mmol), (S)-2-amino-7′-bromo-3′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (300 mg, 0.822 mmol), potassium phosphate (523 mg, 2.465 mmol) and Cl2Pdbis(di-tert-butyl(phenyl)phosphine) (15.28 mg, 0.025 mmol) in 3 ml of dioxane/water=2:1 was heated at 110° C. microwave for 30 min. The reaction mixture was purified by silica gel chromatography (DCM to DCM/MeOH=100:1 to 100:6) to give (R)-2-amino-7′-(3,6-dihydro-2H-pyran-4-yl)-3′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol as a white solid.

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.315 mmol, 276 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | (S)-2-amino-7′-bromo-3′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 0.822 mmol, 300 mg | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=C(C(=CC23)O)F)Br)N1 | C15H10BrFN2O3
reactant | potassium phosphate | 2.465 mmol, 523 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane water | 3 ml | O1CCOCC1.O
product | (R)-2-amino-7′-(3,6-dihydro-2H-pyran-4-yl)-3′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=C(C(=CC23)O)F)C=2CCOCC2)N1 | C20H17FN2O4
